US08808703B2
Step 5: (R)-2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-(((R)-2,3-bis(dodecyloxy)propyl)thio)propanoic acid
A solution of (5R,9R)-tert-butyl 9-(dodecyloxy)-1-(9H-fluoren-9-yl)-3-oxo-2,11-dioxa-7-thia-4-azatricosane-5-carboxylate in 50% TFA in DCM (0.3 M) was stirred at room temperature until complete deprotection of tert-butyl group (30 minutes). The reaction mixture was diluted in MTBE, washed three times with 1M citric acid (adjusted to pH3), and once with 1:2 1N HCl/brine. The organic layer was dried over anhydrous Na2SO4 and concentrated en vaccuo. The resulting waxy solid was used for the next step without further purification.

reactant | (5R,9R)-tert-butyl 9-(dodecyloxy)-1-(9H-fluoren-9-yl)-3-oxo-2,11-dioxa-7-thia-4-azatricosane-5-carboxylate | C(CCCCCCCCCCC)O[C@@H](CSC[C@H](NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C(=O)OC(C)(C)C)COCCCCCCCCCCCC | C49H79NO6S
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.3 M | C(Cl)Cl | CH2Cl2
solvent | MTBE | CC(C)(C)OC | C5H12O
product | (R)-2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-(((R)-2,3-bis(dodecyloxy)propyl)thio)propanoic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)O)CSC[C@@H](COCCCCCCCCCCCC)OCCCCCCCCCCCC | C45H71NO6S
